US07943609B2
(11S)-11-Methyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline (1.01 g, 3.19 mmol) was dissolved in dichloromethane (40 mL) and treated with MCPBA (0.94 g, 77% max). After stirring overnight, the reaction was treated with 20 mL of 2% Na2CO3 solution and the layers were separated. The aqueous layer was then extracted with dichloromethane (10×10 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give (11S)-11-methyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline 5-oxide (1.06 g) as a tan solid.

reactant | (11S)-11-Methyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline | 3.19 mmol, 1.01 g | C[C@H]1CN(CC=2N1C1=C(C=NC3=CC=CC=C13)N2)S(=O)(=O)C | C15H16N4O2S
reactant | MCPBA | 0.94 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (11S)-11-methyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline 5-oxide | 1.06 g | C[C@H]1CN(CC=2N1C1=C(C=[N+](C3=CC=CC=C13)[O-])N2)S(=O)(=O)C | C15H16N4O3S
